US05034381
A mixture of 2(4-bromo-2-thienyl)-ethylamine (37 g) and phthalic anhydride (26.7 g) in glacial acetic acid (500 ml) is heated at reflux over 15 hours. It is concentrated at reduced pressure, the residue is triturated with ethanol and collected. The solid is recrystallized from ethanol to afford N-[2-(4-bromo-2-thienyl)ethyl]-phthalimide, m.p. 115°-117°.

reactant | 2(4-bromo-2-thienyl)-ethylamine | 37 g | BrC=1C=C(SC1)CCN | C6H8BrNS
reactant | phthalic anhydride | 26.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | N-[2-(4-bromo-2-thienyl)ethyl]-phthalimide | BrC=1C=C(SC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H10BrNO2S
